US04649157
ethyl 3-oxo-5-(3-phenoxyphenyl)-4-pentenoate
A solution of 0.10 moles of titanium tetrachloride in 25 ml of carbon tetrachloride was added with rapid stirring over 15 minutes to 200 ml of cold (0°) tetrahydrofuran. After the mixture was stirred an additional 15 minutes, a solution of 0.05 moles of 3-phenoxybenzaldehyde in 15 ml of tetrahydrofuran was added over 30 minutes. A solution of 0.05 moles of ethyl acetoacetate in 15 ml of tetrahydrofuran was then added. A solution of 22 ml of N-methylmorpholine in 30 ml of tetrahydrofuran was added dropwise over three hours. The reaction mixture was then stirred for 20 hours, after which time 50 ml of water and 50 ml of diethyl ether were added. After the resultant layers were separated, the aqueous layer was extracted with 50 ml of diethyl ether. The diethyl ether extract was combined with the initially separated organic layer, dried over sodium sulfate, filtered, and concentrated in vacuo to an oil. Chromatography on silica gel gave the title compound as an oil. Structure assignment was supported by nmr and infrared spectra and by elemental analysis.

reactant | 3-phenoxybenzaldehyde | 0.05 moles | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | ethyl acetoacetate | 0.05 moles | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | N-methylmorpholine | 22 ml | CN1CCOCC1 | C5H11NO
reactant | water | 50 ml | O | H2O
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | titanium tetrachloride | 0.10 moles | [Ti](Cl)(Cl)(Cl)Cl
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | ethyl 3-oxo-5-(3-phenoxyphenyl)-4-pentenoate | O=C(CC(=O)OCC)C=CC1=CC(=CC=C1)OC1=CC=CC=C1 | C19H18O4
